US07851005B2
Dose Response Curve for 2,4-Dihydroxybenzoic Acid
The same methodology as described in Example 1 was repeated with 2,4-DHB in place of 3-HB, to produce the dose response curve for 2,4-DHB (FIG. 2). From FIG. 2 it can be seen that 2,4-DHB also enhances the sweetness of the sucrose solution but there is little difference between the 400 ppm solution (SEV 6.5%) and the 1000 ppm solution (SEV 6.7%). The maximum attainable sweetness would appear to be about 6.7% SEV (based on a 5% sucrose solution).

reactant | 2,4-DHB | C1=CC=C(C=C1)C(=O)C2=C(C=C(C=C2)O)O | C13H10O3
reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
product | 2,4-Dihydroxybenzoic Acid | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
